US05948817
5-(4-Methoxyphenyl)-1,3-benzodioxole-4-carboxylic acid:
The crude 5-(4-methoxyphenyl)-(1,3)-benzodioxole-4-carboxylic acid, methyl ester was hydrolyzed with 1 N sodium hydroxide (2 mL) in refluxing ethanol (10 mL) until TLC analysis indicated the completion of the reaction. The cooled reaction mixture was extracted with methylene chloride and then the aqueous layer was acidified with 1 N hydrochloric acid. The acidic solution was extracted with methylene chloride and the organic layers were dried and concentrated by rotary evaporation to give the crude acid.

reactant | 5-(4-methoxyphenyl)-(1,3)-benzodioxole-4-carboxylic acid, methyl ester | COC1=CC=C(C=C1)C1=C(C2=C(OCO2)C=C1)C(=O)OC | C16H14O5
reactant | sodium hydroxide | 1 N, 2 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(4-Methoxyphenyl)-1,3-benzodioxole-4-carboxylic acid | COC1=CC=C(C=C1)C1=C(C2=C(OCO2)C=C1)C(=O)O | C15H12O5
